2102-06-22 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed, hypotension
   24 Hour Events:
   - Got FFP with repeat INR 2.5, down from 5
   - Cards: Start dig 0.25 X 1 dose then 0.125 X 2 doses then check dig
   level
   - HR transiently into 150s with decreased BPs. Increased neo. Gave 5mg
   lopressor after neo increased with better rate control (although still
   occasional bursts of tachycardia), pressors off this morning
   - Increased O2 requirement (desat from 95% -> 89% on 3L) with ABG
   revealing metabolic acidosis, CXR with mild fluid overload, oxygen
   delivery increased (30% facemask + NC) o/n, now back down to 5L NC
   - more confused o/n
   - Pulled NGT, advanced diet to clears
   - PPI changed to IV BID
   - Liver: Start ursodiol
   - Renal: start bicarb
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-6-19**] 06:43 AM
   Ampicillin/Sulbactam (Unasyn) - [**2102-6-20**] 04:07 PM
   Ampicillin - [**2102-6-21**] 03:32 PM
   Vancomycin - [**2102-6-21**] 08:00 PM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2102-6-21**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-22**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 104 (75 - 124) bpm
   BP: 123/69(87) {92/51(66) - 138/74(95)} mmHg
   RR: 25 (17 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 14 (11 - 26)mmHg
   CO/CI (Fick): (5.2 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 67 - 71
   Total In:
                                                                  2,446 mL
                                                                    576 mL
   PO:
                                                                    720 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,212 mL
                                                                     96 mL
   Blood products:
                                                                    514 mL
   Total out:
                                                                    720 mL
                                                                    135 mL
   Urine:
                                                                    720 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,726 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5L
   SpO2: 94%
   ABG: 7.37/25/78.[**Numeric Identifier 274**]/15/-8
   Physical Examination
   Gen: Awake elderly gentleman in NAD
   HEENT: sclera icteric, dry MM
   CV: RRR, no murmurs
   Lungs: bronchial breathsounds without crackles
   Abd: Soft, NT, ND, + bowel sounds, no RUQ tenderness
   Ext: Warm, well-perfused, no edema
   Neuro: A+Ox3, responds appropriately to questions
   Labs / Radiology
   246 K/uL
   12.3 g/dL
   135 mg/dL
   4.2 mg/dL
   15 mEq/L
   4.4 mEq/L
   128 mg/dL
   111 mEq/L
   143 mEq/L
   35.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2102-6-19**]  10:23 PM
                             [**2102-6-19**]  10:29 PM
                             [**2102-6-20**]  01:26 AM
                             [**2102-6-20**]  02:24 PM
                             [**2102-6-20**]  04:14 PM
                             [**2102-6-21**]  02:56 AM
                             [**2102-6-21**]  03:12 AM
                             [**2102-6-21**]  02:53 PM
                             [**2102-6-22**]  03:22 AM
                             [**2102-6-22**]  04:02 AM
   WBC
   13.3
   14.0
   14.8
   13.3
   Hct
   35.5
   36.3
   35.3
   36.1
   35.2
   Plt
   190
   226
   238
   246
   Cr
   3.6
   3.8
   4.2
   4.4
   4.2
   TCO2
   17
   16
   15
   15
   Glucose
   190
   147
   155
   158
   135
   Other labs: PT / PTT / INR:29.4/30.6/2.9, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:1291/768, Alk Phos / T Bili:525/18.7,
   Amylase / Lipase:143/12, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.5
   g/dL, LDH:1150 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   BNP - >[**Numeric Identifier **]
   Assessment and Plan
   This is a 88 yo M admitted for abdominal pain and hypotension,
   transferred to the unit for evaluation of new UGI bleed in setting of
   anticoagulation complicated by hypotension, ARF, and shock liver.
   # Hypotension:  Appears to be improving with CvO2 high 60
s-low 70
   Cardiogenic v. hypovolemic v. distributive, with hypovolemic most
   likely. Was started on levophed intially but developed afib.  Pressors
   off since  this morning.  ABG early this morning with gap metabolic
   acidosis further supports hypoperfused state.
   - Will receive volume with FFP; allow po fluid intake but caution in
   setting of EF 25%
   - Hope to maintain pressors off; goal MAP>60 and UOP >30 cc/hr
   - If requires pressors, would choose neo
   - Follow perfusion status clinically with UOP, mentation, skin exam,
   CvO2
   - Monitor ECG, tele
   - Set 5 day course of Unasyn (to end on [**2102-6-24**])
   # A-fib with RVR v. SVT with aberrancy: Likely in setting of levophed,
   changed to neo. Continues to have runs of afib.  Lopressor x1 yesterday
   did not persistently slow rate.  Cardiology recommended digoxin
   loading.
   - Continue dig loading with renal dosing
   - Appreciate cards following
   - Monitor ECG, tele
   - if his HR increases, will try lopressor and neo if he requires
   pressors.
   # Demand Ischemia/Heart Failure: CPK trending down.  BNP increased from
   40K -> 70K. TTE showed stable EF 25%.
   - Gentle volume repletion, dig and possible neo as above to goal MAP
   >60, UOP >30 cc/hr
   - Monitor on telemetry
   # Transaminitis- Likely shock liver with transaminitis improving, Tbili
   stable.  Started on ursadiol for possible biliary process.
   - F/u Liver recs
   - Trend LFTs, amylase, lipase
   - Started sarna for itching
   - Lactulose for ? encephalopathy
   # Altered mental status: unclear cause, may be delirium from
   encephalopathy, uremia, hemodynamics
   - cte to treat a-fib and ARF as indicated
   - give dose of lactulose
   - consider Haldol if QTc okay
   - minimizes lines/drains.
   # Coffee ground emesis: Likely upper GI source in setting of
   supra-therapeutic INR.  Hepatic injury may be contributing to
   coagulopathy with INR persistently high, now improved with 2 u FFP.
   PPI changed to [**Hospital1 **].  Tolerated a diet.
   - Hct stable since yesterday, decrease to [**Hospital1 **] checks
   - Defer EGD for now given stable Hct in setting of cardiac ischemia,
   hypotension, coagulopathy
   - Access 2 PIV, a-line, central line
   - Consider DDAVP if further bleed for uremic plt per Renal
   - F/u GI recs
   - no anticoagulation
   - f/u INR
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs, no
   need for renal replacement therapy at this time.  Cr appears to have
   stabilized.  UOP improved somewhat over last 24 hours.  Started bicarb
   yesterday per renal recs.
   - Liberalize po fluid intake
   - f/u renal recs
   - Monitor UOP and Cr
   #DM
   - Hold glyburide while inpatient
   - RISS
   ICU Care
   Nutrition:  ADAT
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-18**] 03:39 PM
   Multi Lumen - [**2102-6-18**] 06:20 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer:PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2102-06-23 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed, hypotension
   24 Hour Events:
   - Converted to sinus with improved BP and UOP yesterday, briefly
   restarted on pressors for afib early this am
   - PICC placed; triple lumen pulled
   - Family meeting regarding code status
   - Started lactulose as no BM in setting of gastric bubble with NG tube
   out. Had large maroon colored BM this AM but Hct stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-6-21**] 03:32 PM
   Vancomycin - [**2102-6-21**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2102-6-22**] 04:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Insulin - Humalog - [**2102-6-22**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-23**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 91 (82 - 120) bpm
   BP: 127/60(86) {97/45(66) - 134/70(192)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 12 (11 - 24)mmHg
   Total In:
                                                                  1,315 mL
                                                                     72 mL
   PO:
                                                                  1,100 mL
   TF:
   IVF:
                                                                    215 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    455 mL
   Urine:
                                                                    940 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    375 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   12.3 g/dL
   98 mg/dL
   4.0 mg/dL
   17 mEq/L
   3.8 mEq/L
   137 mg/dL
   109 mEq/L
   143 mEq/L
   34.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2102-6-20**]  01:26 AM
                             [**2102-6-20**]  02:24 PM
                             [**2102-6-20**]  04:14 PM
                             [**2102-6-21**]  02:56 AM
                             [**2102-6-21**]  03:12 AM
                             [**2102-6-21**]  02:53 PM
                             [**2102-6-22**]  03:22 AM
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
   WBC
   13.3
   14.0
   14.8
   13.3
   11.3
   12.7
   Hct
   36.3
   35.3
   36.1
   35.2
   34.6
   34.9
   Plt
   190
   226
   238
   [**Telephone/Fax (3) 6768**]
   Cr
   3.6
   3.8
   4.2
   4.4
   4.2
   4.8
   4.0
   TCO2
   16
   15
   15
   Glucose
   190
   147
   155
   158
   135
   98
   Other labs: PT / PTT / INR:25.4/31.5/2.4, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:860/407, Alk Phos / T Bili:547/19.2,
   Amylase / Lipase:143/12, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.5
   g/dL, LDH:1150 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 88 yo M admitted for abdominal pain and hypotension,
   transferred to the unit for evaluation of new UGI bleed in setting of
   anticoagulation complicated by hypotension, ARF, and shock liver.
   # Hypotension:  Likely hypovolemic etiology due to poor forward flow vs
   volume depletion; appears to be improving now that patient has
   converted to sinus.  Pressors briefly restarted overnight for
   tachycardia with systolic BP
s in the 90
s, currently being weaned.
   Transaminitis and UOP improving, suggesting improved perfusion state.
   - wean neo as tolerated; goal MAP >60 and UOP> 30 cc/hr
   - If requires pressors, would continue with neo
   - Follow perfusion status with UOP, LFT
s, INR, mentation, skin exam,
   CvO2
   - Monitor ECG, tele
   - Set 5 day course of Unasyn (to end on [**2102-6-24**]) for possible septic
   source
   - PT consult
   # A-fib with RVR v. SVT with aberrancy: Has mostly been in sinus since
   dig loading; current dig level 1.3.
   - Continue dig
   - Appreciate cards following
   - Monitor ECG, tele
   - if his HR increases, will try lopressor and neo if he requires
   pressors, as above
   # Acute on Chronic CHF: BNP continues to be elevated at >70K, however
   hemodynamics improved and recent TTE showed stable EF 25%.
   - Gentle volume repletion, dig and possible neo as above to goal MAP
   >60, UOP >30 cc/hr
   - Monitor on telemetry
   # Transaminitis- Likely shock liver with transaminitis improving, Tbili
   stable.  Started on ursadiol and sarna for itching.
   - F/u Liver recs
   - Trend LFTs, amylase, lipase
   - Started sarna for itching
   - Lactulose for ? encephalopathy, titrate to 1 BM/day
   # Altered mental status: unclear cause, may be delirium from
   encephalopathy, uremia, hemodynamics; appears improved this am
   - cte to treat a-fib and ARF as indicated
   - lactulose as above
   - consider Haldol if QTc okay
   - minimizes lines/drains.
   # Coffee ground emesis: Likely upper GI source in setting of
   supra-therapeutic INR.  BM yesterday was maroon but not evidence of
   fresh blood.  Hepatic injury may be contributing to coagulopathy with
   INR persistently high, now improving.  PPI changed to [**Hospital1 **].  Tolerated a
   diet.
   - Hct stable since yesterday, [**Hospital1 **] checks
   - Defer EGD for now given stable Hct in setting of cardiac ischemia,
   hypotension, coagulopathy
   - Access = a-line, picc
   - Advance diet to full liquids
   - Consider DDAVP if further bleed for uremic plt per Renal
   - F/u GI recs
   - no anticoagulation
   - f/u INR
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs, no
   need for renal replacement therapy at this time.  Cr 4.0 down from
   4.8.  UOP improved somewhat over last 24 hours.  Started bicarb
   yesterday per renal recs.
   - Liberalize po fluid intake
   - f/u renal recs
   - Monitor UOP and Cr
   #DM
   - Hold glyburide while inpatient
   - RISS
   ICU Care
   Nutrition: Clears, advance to full liquids
   Lines:
   Arterial Line - [**2102-6-18**] 03:39 PM
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  patient, patient
s family
   Code status: Full code
   Disposition: ICU

2102-06-24 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2102-6-23**]
   - determined that he does much better in sinus (minimal pressors and
   increase UOP)
   - Cards states all antiarrhythmics are contraindicated [**2-6**] to renal
   failure and liver failure.  Recommended continuing Dig and start
   metoprolol 12.5 mg TID.  Titrate pressors as needed.
   - PM Hcts stable
   - Family re-addressed code status and he was made DNR, but okay to
   intubate if required.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-6-21**] 03:32 PM
   Vancomycin - [**2102-6-21**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2102-6-22**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2102-6-23**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-24**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 115 (83 - 130) bpm
   BP: 68/44(54) {68/43(54) - 128/64(85)} mmHg
   RR: 20 (10 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                    320 mL
                                                                     78 mL
   PO:
                                                                    120 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    200 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    295 mL
   Urine:
                                                                  1,215 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///16/
   Physical Examination
   GEN: NAD
   HEENT: Jaundice
   LUNGS: Crackles at bases
   HEART: Irregularly irregular and tachycardic
   ABD: Soft. NT/ND
   EXTREM: No edema
   NEURO: A+OX3
   Labs / Radiology
   218 K/uL
   12.3 g/dL
   110 mg/dL
   4.8 mg/dL
   16 mEq/L
   4.2 mEq/L
   140 mg/dL
   107 mEq/L
   141 mEq/L
   36.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:56 AM
                             [**2102-6-21**]  03:12 AM
                             [**2102-6-21**]  02:53 PM
                             [**2102-6-22**]  03:22 AM
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
   WBC
   14.8
   13.3
   11.3
   12.7
   13.0
   Hct
   36.1
   35.2
   34.6
   34.9
   33.7
   34.1
   36.0
   Plt
   238
   246
   214
   230
   218
   Cr
   4.2
   4.4
   4.2
   4.8
   4.0
   4.8
   TCO2
   15
   15
   Glucose
   155
   158
   135
   98
   110
   Other labs: PT / PTT / INR:24.7/34.8/2.4, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:626/322, Alk Phos / T Bili:584/19.9,
   Amylase / Lipase:143/12, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.5
   g/dL, LDH:584 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:4.2 mg/dL
   Ca: 8.6 Mg: 2.7 P: 4.2
   ALT: 626
   AP: 584
   Tbili: 19.9
   Alb:
   AST: 322
   LDH: 584
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   PT: 24.7
   PTT: 34.8
   INR: 2.4
   Assessment and Plan
   This is a 88 yo M admitted for abdominal pain and hypotension,
   transferred to the unit for evaluation of new UGI bleed in setting of
   anticoagulation complicated by hypotension, ARF, and shock liver.
   # Hypotension:  Improves when in NSR but ctes to have bouts of AF with
   RVR precipitating hypotension and necessitating neo. Now with maroon
   colored stools concerning for [**Doctor First Name **] although Hct stable.  Transaminitis
   and UOP improving, suggesting improved perfusion state.
   - Rx AF as below
   - wean neo as tolerated; goal MAP >60 and UOP> 30 cc/hr
   - If requires pressors, would continue with neo
   - Follow perfusion status with UOP, LFT
s, INR, mentation, skin exam,
   CvO2
   # A-fib with RVR v. SVT with aberrancy: Has mostly been in sinus since
   dig loading; current dig level 1.3.
   - Continue dig and follow levels
   - Appreciate cards following
   - Monitor ECG, tele
   - if his HR increases, will try lopressor and neo if he requires
   pressors, as above
   - No anticoagulation given [**Doctor First Name **]
   - Monitor ECG, tele
   # [**Doctor First Name **]: Admitted with coffee ground emesis but now with maroon colored
   stools suggesting lower [**Doctor First Name **]. Hcts stable.
   - Check Hct Q6H
   - Transfuse for Hct <30
   - Cls GI re: possibility of scope
   - PPI IV BID until source found as more likely LGIB but as came in with
   coffee ground emesis could be brisk UGIB
   # Acute on Chronic CHF: BNP continues to be elevated at >70K, however
   hemodynamics improved and recent TTE showed stable EF 25%.
   - Gentle volume repletion, dig and possible neo as above to goal MAP
   >60, UOP >30 cc/hr
   - Monitor on telemetry
   - consider D/C bicarb as large salt load
   - Cte dig as above
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs, no
   need for renal replacement therapy at this time.  Cr 4.0 down from
   4.8.  UOP improved somewhat over last 24 hours.  Started bicarb
   yesterday per renal recs but will likely not continue for long given
   large sodium load with it.
   - Liberalize po fluid intake
   - f/u renal recs
   - Monitor UOP and Cr
   # Transaminitis- Likely shock liver with transaminitis improving, Tbili
   stable.  Started on ursadiol and sarna for itching.
   - F/u Liver recs
   - Trend LFTs, amylase, lipase
   - Started sarna for itching
   - Stop lactulose today give clear MS [**First Name (Titles) 43**] [**Last Name (Titles) **]
   # AMS: Now resolved. Consider PT and OOB to chair today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-18**] 03:39 PM
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2102-06-24 09:21:00 Physician Attending Progress Note
Chief Complaint: GI bleed, Afib w RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dig loaded yesterday - added metoprolol even though on low dose Neo
   DNR confirmed with familu (but short term intubation OK)
   Neo weaned off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-6-21**] 03:32 PM
   Vancomycin - [**2102-6-21**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2102-6-22**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2102-6-23**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-24**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 110 (83 - 115) bpm
   BP: 106/61(76) {85/43(58) - 119/64(83)} mmHg
   RR: 22 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                    320 mL
                                                                    318 mL
   PO:
                                                                    120 mL
                                                                    290 mL
   TF:
   IVF:
                                                                    200 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    415 mL
   Urine:
                                                                  1,215 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   218 K/uL
   110 mg/dL
   4.8 mg/dL
   16 mEq/L
   4.2 mEq/L
   140 mg/dL
   107 mEq/L
   141 mEq/L
   36.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:56 AM
                             [**2102-6-21**]  03:12 AM
                             [**2102-6-21**]  02:53 PM
                             [**2102-6-22**]  03:22 AM
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
   WBC
   14.8
   13.3
   11.3
   12.7
   13.0
   Hct
   36.1
   35.2
   34.6
   34.9
   33.7
   34.1
   36.0
   Plt
   238
   246
   214
   230
   218
   Cr
   4.2
   4.4
   4.2
   4.8
   4.0
   4.8
   TCO2
   15
   15
   Glucose
   155
   158
   135
   98
   110
   Other labs: PT / PTT / INR:24.7/34.8/2.4, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:626/322, Alk Phos / T Bili:584/19.9,
   Amylase / Lipase:143/12, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.5
   g/dL, LDH:584 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, [**Year (4 digits) **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   Suspect much of this picture (ARF, shock liver, resp distress with
   elevated BNP, borderline BP) is the downstream effect of global
   hypoperfusion at this point driven by AF c RVR. Will d/w cards re other
   options (procainamide?), continue dig to level for now. GIB had been
   stable but he is now passing maroon stools, will check serial HCT q8h
   today, transition back to PPI. For [**Last Name (LF) **], [**First Name3 (LF) 116**] continue supportive
   care as above. Shock liver / LFTs improving. ARF is slightly better,
   UOP is up when in NSR; hope to avoid HD as hemodynamics are optimized.
   Respiratory distress is stable, will wean oxygen as able. Will continue
   RISS for DM2. Above d/w family and patient at bedside. Remainder of
   plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-18**] 03:39 PM
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  family meeting last PM
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-06-25 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal: Creatinine increase likely [**2-6**] hypotension but encouraged
   because euvolemic and still with good UOP. He did receive 500cc NS
   boluses x 2 as dry on exam.
   - Called for slow VT with AMS. EKG showed same rhythm as before at rate
   100bpm - LBBB with AFib. Neuro exam non-focal with delirium but
   otherwise no neurologic deficits. Lytes with low calcium (1.01). gave
   2gm calcium. ABG with metabolic acidosis but nl PO2. Thought to be
   sundowning with no new arrhythmia.
   - Labs notable for TSH (0.17) and T4 (3) low
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2102-6-22**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-25**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 80 (74 - 119) bpm
   BP: 113/52(67) {86/27(40) - 127/72(82)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,128 mL
                                                                    254 mL
   PO:
                                                                    970 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    110 mL
   Urine:
                                                                    820 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,308 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.36/29/110/15/-7
   Physical Examination
   GEN: NAD
   HEENT: Jaundiced, sclericterus
   LUNGS: CTA b/l
   HEART: Regular
   ABD: Soft. NT/ND
   EXTREM: No edema
   NEURO: A+OX3 and conversant although less interative today
   Labs / Radiology
   213 K/uL
   11.8 g/dL
   101 mg/dL
   4.8 mg/dL
   15 mEq/L
   4 mEq/L
   144 mg/dL
   109 mEq/L
   142 mEq/L
   34.1
   16.8 K/uL
        [image002.jpg]
                             [**2102-6-21**]  02:53 PM
                             [**2102-6-22**]  03:22 AM
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
                             [**2102-6-24**]  08:52 PM
                             [**2102-6-24**]  09:13 PM
   WBC
   13.3
   11.3
   12.7
   13.0
   Hct
   35.2
   34.6
   34.9
   33.7
   34.1
   36.0
   38
   Plt
   [**Telephone/Fax (3) 6806**]18
   Cr
   4.4
   4.2
   4.8
   4.0
   4.8
   4.8
   TCO2
   15
   17
   Glucose
   158
   135
   98
   110
   141
   128
   Other labs: INR 2.2., Ca 9.1, Mg 2.6, P 4. ALT 457, AST 241, AP 619,
   Tbili 20.9. TSH 0.17, T4 3. Dig 1.4.
   Assessment and Plan
   88 yo M admitted for abdominal pain and hypotension, transferred to the
   unit for evaluation of new UGI bleed in setting of anticoagulation
   complicated by hypotension, ARF, and shock liver.
   # Hypotension:  Off pressors since 3am on [**6-24**]. Had another episode of
   AF with RVR overnight but did not develop hypotension. Able to maintain
   BP while sitting up this AM, an improvement from yesterday.
   Transaminitis and UOP improving with nl lactate, suggesting improved
   perfusion state. Did have maroon colored stools on [**6-23**] concerning for
   GIB but Hct stable.
   - Treat AF as below with dig, beta blocker
   - If requires pressors, would resume neo
   - Follow perfusion status with UOP, CvO2, lactate, liver function,
   mentation
   - Would give IVF cautiously if requires given CHF
   # A-fib with RVR v. SVT with aberrancy: Has mostly been in sinus since
   dig loading; current dig level 1.4.
   - Continue metoprolol
   - Continue dig and follow levels
   - Monitor ECG, tele
   - If his HR increases, will try lopressor and neo if he requires
   pressors as above
   - No anticoagulation given GIB
   - F/u cards recs
   # Leukocytosis: Pt afebrile. Source unclear.
   - [**Name2 (NI) 1384**] U/A, Ucx, stool for C. diff.
   - Consider CXR if spikes (occasional cough [**Name8 (MD) 24**] RN)
   # GIB: Admitted with coffee ground emesis but had maroon colored stools
   2 days ago suggesting lower GIB. Hcts stable.
   - Check Hct daily
   - Transfuse for Hct <30
   - PPI IV BID ->change to PO today
   # Acute on Chronic CHF: BNP continues to be elevated at >70K, however
   hemodynamics improved and recent TTE showed stable EF 25%.
   - Cont dig and beta blocker; conservation IV fluids if needed
   - Monitor on telemetry
   - Consider d/c bicarb when renal function improves as high salt load
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs.
   Cr curve flattening at 4.8, has some U/O.
   - Cont bicarb for now per renal recs
   - Monitor UOP and Cr
   - Liberalize po fluid intake
   - F/u renal recs
   # Transaminitis: Evaluated by Liver and thought likely shock liver with
   transaminitis improving although Tbili still rising; may lag. [**6-20**] abd
   U/S with mildly improved gallbladder appearance with sludge and mild
   wall thickening; no specific cholecystitis signs or biliary dilatation.
    Started on ursodiol and sarna for itching.
   - Trend LFTs, amylase, lipase
   - Started sarna/ursodiol for itching; could consider cholestyramine
   - F/u liver recs; will ask Liver if Tbili elevation out of proportion
   to expectation with shock liver; consider ERCP in future if TBili does
   not resolve
   # Thyroid: Question of central hypothyroidism with low TSH and T4.
   - Checking free T4
   # AMS: Confusion at night with nonfocal neuro exam. [**Month (only) 11**] have element of
   sundowning. Could also represent delirium in setting, ? underlying
   infection given rise in leukocytosis although afebrile
   - Leukocytosis w/u as above
   - OOB to chair
   - Could consider low-dose antipsychotics if very agitated but no need
   for now
   ICU Care
   Nutrition: DM, Cardiac
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2102-6-18**] 03:39 PM
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI po bid
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), ok to intubate
   Disposition: Possible call out this PM if remain BP stable when OOB

2102-06-25 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2102-6-24**] 09:00 PM
 EKG - At [**2102-6-24**] 09:06 PM
   Afib w abberancy last PM
   7.36/29/110 bicarb 17
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2102-6-22**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-25**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.5
C (95.9
   HR: 70 (70 - 119) bpm
   BP: 113/56(74) {86/41(60) - 130/73(87)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,128 mL
                                                                    367 mL
   PO:
                                                                    970 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    450 mL
   Urine:
                                                                    820 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,308 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.36/29/110/15/-7
   Physical Examination
    Gen: sitting in chair, NAD
   HEENT: dry o/p ++ icterus
   CV: RR
   Chest; fair air movement
   Abd: distended, +BS
   Ext: min edema
   Neuro: conversant but confused
   Labs / Radiology
   11.8 g/dL
   213 K/uL
   101 mg/dL
   4.8 mg/dL
   15 mEq/L
   4.0 mEq/L
   144 mg/dL
   109 mEq/L
   142 mEq/L
   34.1 %
   16.8 K/uL
        [image002.jpg]
                             [**2102-6-22**]  03:22 AM
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
                             [**2102-6-24**]  08:52 PM
                             [**2102-6-24**]  09:13 PM
                             [**2102-6-25**]  02:00 AM
   WBC
   13.3
   11.3
   12.7
   13.0
   16.8
   Hct
   35.2
   34.6
   34.9
   33.7
   34.1
   36.0
   38
   34.1
   Plt
   [**Telephone/Fax (3) 6806**]18
   213
   Cr
   4.2
   4.8
   4.0
   4.8
   4.8
   4.8
   TCO2
   15
   17
   Glucose
   135
   98
   110
   141
   128
   101
   Other labs: PT / PTT / INR:22.9/32.5/2.2, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:457/241, Alk Phos / T Bili:619/20.9,
   Amylase / Lipase:143/12, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.5
   g/dL, LDH:584 IU/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, [**Telephone/Fax (3) **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   Suspect much of this picture (ARF, shock liver, resp distress with
   elevated BNP, borderline BP) is the downstream effect of global
   hypoperfusion at this point driven by intermittent AF c RVR.
   1. Hypotension: resolving, off Neo, on Digoxin with stable level.
   Whereas yesterday he could not maintain BP to get OOB to chiar he is
   now doing so.
   2. GIB:  has been stable HCT, no further [**Last Name (un) 1165**] stools, PPI.
   3. For [**Last Name (LF) **], [**First Name3 (LF) 116**] continue supportive care as above. Bblocker,
   4. ARF: dense but Cr appears to have plateaued. UOP continues; hope to
   avoid HD as hemodynamics are optimized but need to follow closely Avoid
   all nehrotixins, renalally dose all meds, Nabicarn is a large salt load
 ask renal any alternatives.
   5. Liver injury: presumed shock, LFTs coming down, bili continues to
   rise though starting to plateau. Had been discussion of ERCP to look
   but on hold for now. If not start to fall can re evaluate but no fevers
   ro other concerning signs.
   Remainder of plan as outlined by housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-18**] 03:39 PM
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:
   Code status: DNR (do not resuscitate) but OK to intubate
   Disposition :ICU
   Total time spent: 35
   [**Month (only) 11**] be able to go to floor if BP stable

2102-06-26 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: UGI bleed, hypotension
   24 Hour Events:
   - Renal: [**Month (only) 11**] need to initiate HD; discussed possibility with son. [**Name (NI) **]
   reevaluate today.
   - Free T4 nl at 1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-26**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.4
C (95.8
   HR: 80 (67 - 82) bpm
   BP: 93/65(72) {82/46(55) - 124/78(85)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CO/CI (Fick): (8.2 L/min) / (4.3 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                    957 mL
                                                                     50 mL
   PO:
                                                                    760 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    197 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    280 mL
   Urine:
                                                                    865 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     92 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   Gen: Sleeping, but easily arousable, answers to questions are somewhat
   delayed
   HEENT: MMM, sclera icteric
   CV: RRR, no murmurs
   Lungs: CTAB
   Abd: Soft, non-distended with minimal RUQ tenderness
   Ext: Warm, well-perfused
   Labs / Radiology
   196 K/uL
   12.0 g/dL
   87 mg/dL
   5.1 mg/dL
   15 mEq/L
   3.7 mEq/L
   155 mg/dL
   110 mEq/L
   143 mEq/L
   34.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
                             [**2102-6-24**]  08:52 PM
                             [**2102-6-24**]  09:13 PM
                             [**2102-6-25**]  02:00 AM
                             [**2102-6-26**]  03:05 AM
   WBC
   11.3
   12.7
   13.0
   16.8
   17.6
   Hct
   34.6
   34.9
   33.7
   34.1
   36.0
   38
   34.1
   34.2
   Plt
   [**Telephone/Fax (3) 6824**]13
   196
   Cr
   4.8
   4.0
   4.8
   4.8
   4.8
   5.1
   TCO2
   15
   17
   Glucose
   98
   110
   141
   128
   101
   87
   Other labs: PT / PTT / INR:22.5/32.9/2.1, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:373/257, Alk Phos / T Bili:663/22.5,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.5
   g/dL, LDH:584 IU/L, Ca++:9.5 mg/dL, Mg++:2.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   88 yo M admitted for abdominal pain and hypotension, transferred to the
   unit for evaluation of new UGI bleed in setting of anticoagulation
   complicated by hypotension, ARF, and shock liver.
   # A-fib with RVR v. SVT with aberrancy: Has mostly been in sinus since
   dig loading; dig level today 1.2.
   - Rate control with metoprolol
   - Continue dig and follow levels
   - Monitor ECG, tele
   - No anticoagulation given GIB
   - F/u cards recs
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs.
   Cr continues to climb (4.8 ->5.1), has some U/O.
   - Cont bicarb for now per renal recs
   - Monitor UOP and Cr
   - Liberalize po fluid intake
   - F/u renal recs
   - Discuss initiating HD with pt and family
   # Leukocytosis: Pt afebrile. Source unclear. UA with small leuk, 8 wbc,
   few bacteria
   - f/u Ucx, CXR, stool for C. diff.
   - d/c foley
   # GIB: Admitted with coffee ground emesis but had maroon colored stools
   2 days ago suggesting lower GIB. Hcts stable and has not stooled
   since.
   - continue PO PPI
   - start bowel regimen with colace/senna
   - Check Hct daily
   - Transfuse for Hct <30
   # Transaminitis: Evaluated by Liver and thought likely shock liver with
   transaminitis improving, however Tbili still rising; may lag. [**6-20**] abd
   U/S with mildly improved gallbladder appearance with sludge and mild
   wall thickening; no specific cholecystitis signs or biliary dilatation.
   Started on ursodiol and sarna for itching, could consider
   cholestyramine.
   - Trend LFTs, amylase, lipase
   - fractionate Bili
   - consider repeat RUQ U/S
   - [**Month (only) 11**] tolerate MRCP now
   - F/u liver recs; consider ERCP in future if TBili does not resolve
   # Acute on Chronic CHF: BNP continues to be elevated at >70K, however
   hemodynamics improved and recent TTE showed stable EF 25%.
   - Cont dig and beta blocker; conservation IV fluids if needed
   - Monitor on telemetry
   - Consider d/c bicarb when renal function improves as high salt load
   # Hypotension:  Off pressors for >24 hrs. Appears to have been in sinus
   for most of past 24 hours with one episode of afib at 2am.  Had SBP
   in high-80
s/low-90
s briefly this morning, now resolved.  Over the
   weekend was not able to maintain BP whiel sitting up in chair.
   Transaminitis and UOP improving with nl lactate, suggesting improved
   perfusion state. Did have maroon colored stools on [**6-23**] concerning for
   GIB but Hct stable.
   - Treat AF as below with dig, beta blocker
   - If requires pressors, would resume neo
   - Follow perfusion status with UOP, CvO2, lactate, liver function,
   mentation
   - Would give IVF cautiously if requires given CHF
   # Thyroid: Question of central hypothyroidism with low TSH and T4,
   however free T4 nl.
   # AMS: Confusion at night with nonfocal neuro exam. [**Month (only) 11**] have element of
   sundowning + contribution from persistently elevated BUN. Could also
   represent delirium in setting, ? underlying infection given rise in
   leukocytosis although afebrile.
   - Continue leukocytosis w/u as above
   - HD discussion with pt and family as above
   - Could consider low-dose antipsychotics if very agitated but no need
   for now
   ICU Care
   Nutrition: Regular, heart-healthy
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: PPI
   Communication: Patient, patient
s children
   Code status: DNR (do not resuscitate), OK to intubate
   Disposition: ICU, call out to floor

2102-06-26 09:56:00 Physician Attending Progress Note
Chief Complaint: ARF, CHF, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2102-6-25**] 02:22 PM
 URINE CULTURE - At [**2102-6-25**] 05:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-26**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 76 (67 - 81) bpm
   BP: 112/58(71) {82/45(55) - 124/78(85)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CO/CI (Fick): (8.2 L/min) / (4.3 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                    957 mL
                                                                    170 mL
   PO:
                                                                    760 mL
                                                                    170 mL
   TF:
   IVF:
                                                                    197 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    400 mL
   Urine:
                                                                    865 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     92 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///15/
   Exam:
   Gen: sitting in bed, NAD, somnolent and confused when awake but will
   follow commands,
   HEENT: dry op
   CV: irreg irreg
   Chest: poor air movement
   Abd: no RUQ pain
   Ext: trace edema
   Labs / Radiology
   12.0 g/dL
   196 K/uL
   87 mg/dL
   5.1 mg/dL
   15 mEq/L
   3.7 mEq/L
   155 mg/dL
   110 mEq/L
   143 mEq/L
   34.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2102-6-22**]  04:02 AM
                             [**2102-6-22**]  04:30 PM
                             [**2102-6-23**]  03:30 AM
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
                             [**2102-6-24**]  08:52 PM
                             [**2102-6-24**]  09:13 PM
                             [**2102-6-25**]  02:00 AM
                             [**2102-6-26**]  03:05 AM
   WBC
   11.3
   12.7
   13.0
   16.8
   17.6
   Hct
   34.6
   34.9
   33.7
   34.1
   36.0
   38
   34.1
   34.2
   Plt
   [**Telephone/Fax (3) 6824**]13
   196
   Cr
   4.8
   4.0
   4.8
   4.8
   4.8
   5.1
   TCO2
   15
   17
   Glucose
   98
   110
   141
   128
   101
   87
   Other labs: PT / PTT / INR:22.5/32.9/2.1, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:373/257, Alk Phos / T Bili:663/22.5,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.5
   g/dL, LDH:584 IU/L, Ca++:9.5 mg/dL, Mg++:2.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, [**Telephone/Fax (3) **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   Suspect much of this picture (ARF, shock liver, resp distress with
   elevated BNP, borderline BP) is the downstream effect of global
   hypoperfusion at this point driven by intermittent AF c RVR.
   1. Leukocytosis: pan culturing, rule out C diff., follow up urine
   culture
   2. Mental Status: likely a combination of uremia, hyperbili, and ICU
   delirium, has not required any pharma intervention and is usually
   redirectable.
   3. Hypotension: resolving, off Neo, on Digoxin with stable level.
   4. GIB:  has been stable HCT, no further [**Last Name (un) 1165**] stools, PPI.
   5. For [**Last Name (LF) **], [**First Name3 (LF) 116**] continue supportive care as above. Bblocker, Dig,
   6. ARF: dense but Cr appears to have plateaued. UOP continues; hope to
   avoid HD as hemodynamics are optimized but need to follow closely Avoid
   all nephrotoxins, renally dose all meds,
   7. Liver injury: presumed shock, LFTs coming down, bili continues to
   rise though starting to plateau. Had been discussion of ERCP to look
   but on hold for now. Fractionate and call Hpetaology to clarify reimage
   US versus ERCP
 may not be needed just want to make sure we are all
   Remainder of plan as outlined by housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with son, HD has been approached
   Code status: DNR (do not resuscitate)
   Disposition : discuss with renal- if plan is for CVVH may need OICU for
   hemodynamic monitoring
   Total time spent:

2102-06-27 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2102-6-26**]
   - Family agreed to temporary CVVH.  If he clears from uremia, can
   re-address with patient desire for HD.
   - Renal: Attempted IJ dialysis catheter, but were unable to place it so
   Right femoral HD line was placed.  Started on CVVH in evening after
   receiving 4 u FFP, SBP dropped to 80
s briefly when CVVH paused for
   filter issue/change.  A-line placed, neo restarted at 0.5 mcg/min.
   - Hct dropped this am from 34 ->28, repeat Hct this am
   - Will have to change dig dose per pharmacy for CVVH dosing. Get levels
   QOD until stable.
   - Liver: Said monitor Bili levels for [**2-7**] more days and if still
   elevated -> redo RUQ U/S as he had sludge on his last exam.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-27**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 75 (66 - 84) bpm
   BP: 104/45(66) {102/45(66) - 111/55(74)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  1,814 mL
                                                                    910 mL
   PO:
                                                                    260 mL
   TF:
   IVF:
                                                                    428 mL
                                                                    910 mL
   Blood products:
                                                                  1,126 mL
   Total out:
                                                                  1,217 mL
                                                                    603 mL
   Urine:
                                                                    905 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.45/27/117/18/-2
   Physical Examination
   Gen: Somnolent elderly man wearing bair-hugger
   HEENT: MMM, sclera icteric
   CV: RRR, no murmurs
   Lungs: CTAB, no wheezes
   Abd: Soft, non-tender, non-distended, +bowel sounds
   Ext: Warm, well-perfused
   Neuro: Oriented to person only
   Labs / Radiology
   159 K/uL
   10.2 g/dL
   63 mg/dL
   3.9 mg/dL
   18 mEq/L
   3.3 mEq/L
   124 mg/dL
   106 mEq/L
   143 mEq/L
   28.2 %
   14.8 K/uL
        [image002.jpg]
                             [**2102-6-23**]  11:49 AM
                             [**2102-6-23**]  08:00 PM
                             [**2102-6-24**]  02:30 AM
                             [**2102-6-24**]  08:52 PM
                             [**2102-6-24**]  09:13 PM
                             [**2102-6-25**]  02:00 AM
                             [**2102-6-26**]  03:05 AM
                             [**2102-6-26**]  07:30 PM
                             [**2102-6-26**]  07:45 PM
                             [**2102-6-27**]  01:55 AM
   WBC
   13.0
   16.8
   17.6
   14.8
   Hct
   33.7
   34.1
   36.0
   38
   34.1
   34.2
   28.2
   Plt
   [**Telephone/Fax (3) 6842**]59
   Cr
   4.8
   4.8
   4.8
   5.1
   5.4
   3.9
   TCO2
   17
   19
   Glucose
   110
   141
   128
   101
   87
   75
   63
   Other labs: PT / PTT / INR:17.8/30.5/1.6, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:261/249, Alk Phos / T Bili:602/22.4,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.5
   g/dL, LDH:481 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   88 yo M admitted for abdominal pain and hypotension, transferred to the
   unit for evaluation of new UGI bleed in setting of anticoagulation
   complicated by hypotension, ARF, and shock liver.
   # Hypotension:  Concerning for hypovolemic etiology in setting of new
   Hct drop and fluid shifts in CVVH, also concerning for cardiogenic in
   this patient with acute on chronic CHF.  Pressors restarted early this
   am. Mostly in sinus for most of past 24 hours.  Transaminitis and
   lactate stabilizing, suggesting improved perfusion state however mental
   status significantly worse this am.  CXR with increased opacities at
   bases bilaterally, possible pleural effusions.
   - Treat AF as below with dig, beta blocker
   - Follow perfusion status with UOP, CvO2, lactate, liver function,
   mentation
   - Would give IVF cautiously if requires given CHF
   - Check repeat am Hct, transfuse if continues to drop
   # A-fib with RVR v. SVT with aberrancy: Has mostly been in sinus since
   dig loading.
   - Rate control with metoprolol
   - Continue dig and follow levels
   - Discussed with pharmacy.  Will switch to daily digoxin dosing given
   dig level today.
   - Monitor ECG, tele
   - No anticoagulation given GIB, unstable Hct
   - F/u cards recs
   #Anemia: Admitted with coffee ground emesis; had maroon colored stools
   3 days ago and 2 bowel tarry bowel movements yesterday.  Now with new
   Hct drop.
   - continue PO PPI
   - start bowel regimen with colace/senna
   - Repeat check Hct this am, transfuse for Hct <30
   - Will repeat the Hct later today.
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs,
   started CVVH yesterday.  Bicarb d/c
ed now that on CVVH.  [**Month (only) 11**] need HD
   once more hemodynamically stable.
   - Monitor lytes
   - Monitor mental status
   - Liberalize po fluid intake
   - F/u renal recs
   # Leukocytosis: Pt afebrile. Source unclear. UA with small leuk, 8 wbc,
   few bacteria
   - f/u Ucx, CXR, stool for C. diff.
   - CXR tomorrow morning.
   - d/c foley.
   - Continue to watch pt.
   # Transaminitis: Evaluated by Liver and thought likely shock liver with
   transaminitis improving, however Tbili still rising; may lag.  Bili
   mostly direct (19 direct, 22.5 total).   [**6-20**] abd U/S with no specific
   cholecystitis signs or biliary dilatation. Started on ursodiol and
   sarna for itching, could consider cholestyramine.
   - Trend LFTs, amylase, lipase
   - Per liver recs, will continue trending Tbili for next 48 hours, if no
   improvement will consider repeat RUQ u/s
   - MRCP/ERCP on hold pending increased patient stability
   - F/u liver recs
   # Acute on Chronic CHF: BNP very elevated at >70K
   - Cont dig and beta blocker; conservation IV fluids if needed
   - Monitor on telemetry
   - Consider d/c bicarb when renal function improves as high salt load
   # AMS: Confusion at night with non-focal neuro exam. [**Month (only) 11**] have element
   of sundowning + contribution from persistently elevated BUN. Could also
   represent delirium in setting, ? underlying infection given rise in
   leukocytosis although afebrile.
   - Continue leukocytosis w/u as above
   - CVVH as above
   - Could consider low-dose antipsychotics if very agitated but no need
   for now
   ICU Care
   Nutrition: Low sodium, renal diet
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2102-06-27 09:14:00 Physician Attending Progress Note
Chief Complaint: heart failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-6-26**] 05:43 PM
 ARTERIAL LINE - START [**2102-6-27**] 03:14 AM
 ARTERIAL LINE - STOP [**2102-6-27**] 03:17 AM
   Started CVVH overnight, droping BP, started neo to support CVVH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Phenylephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-27**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 69 (65 - 84) bpm
   BP: 117/53(76) {96/45(66) - 117/61(76)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                  1,814 mL
                                                                  1,909 mL
   PO:
                                                                    260 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    428 mL
                                                                  1,879 mL
   Blood products:
                                                                  1,126 mL
   Total out:
                                                                  1,217 mL
                                                                  1,498 mL
   Urine:
                                                                    905 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.48/28/121/18/0
   Physical Examination
    Gen: lying in bed on CVVH
   CV: irreg irreg
   Chest: poor air movement
   Abd:soft + BS
   Ext: right groin line
   Labs / Radiology
   11.0 g/dL
   181 K/uL
   63 mg/dL
   3.9 mg/dL
   18 mEq/L
   3.3 mEq/L
   124 mg/dL
   106 mEq/L
   143 mEq/L
   30.7 %
   17.1 K/uL
        [image002.jpg]
                             [**2102-6-24**]  02:30 AM
                             [**2102-6-24**]  08:52 PM
                             [**2102-6-24**]  09:13 PM
                             [**2102-6-25**]  02:00 AM
                             [**2102-6-26**]  03:05 AM
                             [**2102-6-26**]  07:30 PM
                             [**2102-6-26**]  07:45 PM
                             [**2102-6-27**]  01:55 AM
                             [**2102-6-27**]  07:28 AM
                             [**2102-6-27**]  07:35 AM
   WBC
   13.0
   16.8
   17.6
   14.8
   17.1
   Hct
   36.0
   38
   34.1
   34.2
   28.2
   30.7
   Plt
   [**Telephone/Fax (3) 6842**]59
   181
   Cr
   4.8
   4.8
   4.8
   5.1
   5.4
   3.9
   TCO2
   17
   19
   21
   Glucose
   110
   141
   128
   101
   87
   75
   63
   Other labs: PT / PTT / INR:17.8/30.5/1.6, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:261/249, Alk Phos / T Bili:602/22.4,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.5
   g/dL, LDH:481 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, [**Telephone/Fax (3) **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   1. Hypotension: DDx lower circ volume when started on CVVH versus blood
   loss anemia. Required Neo overnight
 this AM is trending down slightly
 lactate stable.
   2. ARF: started CVVH last PM but dropping BPs with it and initiated Neo
   to support, better this AM as awakens, trying to wean off Neo. Continue
   CVVH- goal ultrafiltration. Re Dose all meds.
   3. Anemia: DDX blood loss from line, no physical evidence of RP bleed
   after fem line, CT if HCT drops
   4. Leukocytosis: pan culturing, rule out C diff., follow up urine
   culture
   5. Mental Status: likely a combination of uremia, hyperbili, and ICU
   delirium, has not required any pharma intervention and is usually
   redirectable.
   6. GIB: no active bleeding at present
 bowel movement yesterday
   7. For [**Last Name (LF) **], [**First Name3 (LF) 116**] continue supportive care as above. Bblocker, Dig,
   8. Liver injury: presumed shock, LFTs coming down, bili continues to
   rise though starting to plateau. Liver saw yesterday and would repeat
   RUQ if rising in next few days
   Remainder of plan as outlined by housestaff
   ICU Care
   Nutrition: renal cardiac diet
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with son
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40

2102-06-28 03:20:00 Physician Resident Progress Note
Chief Complaint: GI bleed, hypotension
   24 Hour Events:
   - dig dosing changed to qday while on CVVH, to be changed back when
   CVVH discontinued
   - repeat Hct improved at 32.7
   - neo weaned to off yesterday am with SBP's maintained in 110's-120's
   - renal: will change CVVH bath to avoid alkalosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-28**] 03:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 75 (62 - 83) bpm
   BP: 110/46(69) {82/40(54) - 136/68(85)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 70 Inch
    CO/CI (Fick): (3.5 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 54 - 71
   Total In:
                                                                  4,895 mL
                                                                    435 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  4,795 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  5,802 mL
                                                                    185 mL
   Urine:
                                                                    310 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -907 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.36/38/77
   Physical Examination
   Gen: Elderly man, somnolent, NAD
   HEENT: Sclera icteria, MMM
   CV: RRR, no m/r/g
   Lungs: CTAB, no w/r/r
   Abd: Soft, non-tender, non-distended, + bowel sounds
   Ext: 1+ edema in bilateral lower extremities, warm
   Neuro: Oriented to person only, does not answer questions appropriately
   Labs / Radiology
   147
   11.1
   82
   1.8 mg/dL
   18
   3.6 mEq/L
   52
   104
   138 mEq/L
   30.4
   18.4 K/uL
        [image002.jpg]
                             [**2102-6-26**]  07:30 PM
                             [**2102-6-26**]  07:45 PM
                             [**2102-6-27**]  01:55 AM
                             [**2102-6-27**]  07:28 AM
                             [**2102-6-27**]  07:35 AM
                             [**2102-6-27**]  12:38 PM
                             [**2102-6-27**]  12:42 PM
                             [**2102-6-27**]  06:10 PM
                             [**2102-6-28**]  12:16 AM
                             [**2102-6-28**]  12:17 AM
   WBC
   14.8
   17.1
   Hct
   28.2
   30.7
   32.7
   Plt
   159
   181
   Cr
   5.4
   3.9
   3.3
   0.9
   2.1
   2.2
   TCO2
   19
   21
   19
   Glucose
   75
   63
   68
   64
   80
   79
   Other labs: PT / PTT / INR:17.8/30.5/1.6, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:261/249, Alk Phos / T Bili:602/22.4,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.5
   g/dL, LDH:481 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   88 yo M admitted for abdominal pain and hypotension, transferred to the
   unit for evaluation of new UGI bleed in setting of anticoagulation
   complicated by hypotension, acute on chronic CHF, ARF necessitating
   CVVH, shock liver.
   .
   # Hypotension:  Concerning for hypovolemic etiology in setting of new
   Hct drop and fluid shifts in CVVH.  Hct improved over the course of the
   day, however again slightly decreased this morning.  Patient has also
   had significantly better perfusion over hospital course when in sinus
   instead of afib; appears to have been in afib throughout last 24
   hours.  Pressors not restarted. Transaminitis, INR and lactate
   stabilizing, suggesting improved perfusion state however mental status
   significantly worse this am (difficult to interpret in setting of
   continued elevated BUN).  CXR with increased opacities at bases
   bilaterally, possible pleural effusions.  Patient afebrile and without
   growth on cultures but with WBC that continues to creep up, concerning
   for possible evolving septic picture.
   - Continue to follow Hct
   - Treat AF as below with dig, beta blocker
   - Follow perfusion status with UOP, CvO2, lactate, liver function,
   mentation
   - Would give IVF cautiously if requires given CHF
   - If need to restart pressors, would use neo
   - Check repeat Hct later this am
   # A-fib with RVR v. SVT with aberrancy: Has mostly been in sinus since
   dig loading.
   - Rate control with metoprolol
   - Continue dig and follow levels
   - Discussed with pharmacy.  Will switch to daily digoxin dosing given
   dig level today.
   - Monitor ECG, tele
   - No anticoagulation given GIB, unstable Hct
   - F/u cards recs
   #Anemia: Admitted with coffee ground emesis; continues to have tarry
   black stool (several times yesterday).  PO PPI changed to IV for
   difficulty swallowing.  Bowel regimen held for several BM over the day.
   - hold bowel regimen with colace/senna
   - Repeat check Hct this am, transfuse for Hct <30
   # Acute Renal Failure: Likely ATN due to hypotension per renal recs,
   started CVVH yesterday.  Bicarb d/c
ed now that on CVVH.  [**Month (only) 11**] need HD
   once more hemodynamically stable.
   - Monitor lytes
   - Monitor mental status
   - Liberalize po fluid intake
   - F/u renal recs
   # Leukocytosis: Pt afebrile, but on CVVH. Cx without growth, c diff
   negative x 1, CXR without obvious infiltrate .
   - repeat blood, urine cx, repeat c.difff
    - Continue to trend WBC, temp.
   # AMS: Confusion at night with non-focal neuro exam. [**Month (only) 11**] have element
   of sundowning + contribution from elevated BUN, possible evolving
   underlying infection given rise in leukocytosis although afebrile.
   - Continue leukocytosis w/u as above
   - CVVH as above
   - Could consider low-dose antipsychotics if very agitated but no need
   for now
   # Transaminitis: Evaluated by Liver and thought likely shock liver with
   transaminitis improving, however Tbili still rising.  [**6-20**] abd U/S with
   no specific cholecystitis signs or biliary dilatation. Started on
   ursodiol and sarna for itching, could consider cholestyramine.
   - Trend LFTs, amylase, lipase
   - Per liver recs, will continue trending Tbili for next 24 hours, if no
   improvement will consider repeat RUQ u/s
   - MRCP/ERCP on hold pending increased patient stability
   - F/u liver recs
   # Acute on Chronic CHF: BNP very elevated at >70K
   - Cont dig and beta blocker; conservation IV fluids if needed, neo as
   pressor to maintain MAP >65
   - Monitor on telemetry
   ICU Care
   Nutrition: Renal, heart-health
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Arterial Line - [**2102-6-27**] 04:47 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), OK to intubate
   Disposition: ICU

2102-06-28 10:30:00 Physician Attending Progress Note
Chief Complaint: heart failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2102-6-27**] 04:47 PM
   Off Neo all night, but restarted this AM for hypotensive
   CVVH machine malfunction - off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-28**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 75 (62 - 78) bpm
   BP: 84/38(55) {82/38(54) - 136/68(85)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 70 Inch
   CO/CI (Fick): (3.5 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 54 - 71
   Total In:
                                                                  4,895 mL
                                                                    914 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  4,795 mL
                                                                    914 mL
   Blood products:
   Total out:
                                                                  5,802 mL
                                                                    315 mL
   Urine:
                                                                    310 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -907 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.36/38/77/18/-3
   Physical Examination
   Gen: lying in bed , minimally responsive
   CV: irreg irreg
   Chest: poor air movement
   Abd:soft + BS
   Ext: right groin line
   Neuro: eyes open but not answering ?s or following commands, moving all
   extremities
   Labs / Radiology
   11.1 g/dL
   147 K/uL
   82 mg/dL
   1.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   52 mg/dL
   104 mEq/L
   138 mEq/L
   30.4 %
   18.4 K/uL
        [image002.jpg]
                             [**2102-6-27**]  01:55 AM
                             [**2102-6-27**]  07:28 AM
                             [**2102-6-27**]  07:35 AM
                             [**2102-6-27**]  12:38 PM
                             [**2102-6-27**]  12:42 PM
                             [**2102-6-27**]  06:10 PM
                             [**2102-6-28**]  12:16 AM
                             [**2102-6-28**]  12:17 AM
                             [**2102-6-28**]  05:12 AM
                             [**2102-6-28**]  05:13 AM
   WBC
   14.8
   17.1
   18.4
   Hct
   28.2
   30.7
   32.7
   30.4
   Plt
   159
   181
   147
   Cr
   3.9
   3.3
   0.9
   2.1
   2.2
   1.8
   TCO2
   21
   19
   22
   Glucose
   63
   68
   64
   80
   79
   82
   Other labs: PT / PTT / INR:19.9/35.8/1.8, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:251/272, Alk Phos / T Bili:697/23.5,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.5
   g/dL, LDH:490 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, [**Year (4 digits) **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   1. Hypotension: DDx  overdiuresed, bowel ischemia, cardiac dysfunction.
   At this point he is on Neo again, but we need to discuss with son
   overall goals of cared as he is not able to be hemodynamically
   supported without vasopressors. Repeat SCVO2 and lactate.
   2. ARF: CVVH- machine malfunctioning
 but he is on pressors even
   without CVVH so may not be able to go back on
 will assess as day
   progresses
   3. Anemia: DDX blood loss -  HCT relatively stable
 maybe slow GI
   ooze.
   4. Leukocytosis: pan culturing, empiric Rx for C diff with Flagyl
   5. Mental Status: likely a combination of uremia, hyperbili, and ICU
   delirium, overall trajectory is down and even with BUN 150 to 50 he is
   worse.
   6. GIB: no active bleeding at present
 bowel movement yesterday
   7. For [**Last Name (LF) **], [**First Name3 (LF) 116**] continue supportive care as above. Bblocker, Dig,
   check level
   8. Liver injury: presumed shock, LFTs coming down, bili continues to
   rise though starting to plateau. Depending on goals could repeat RUQ if
   no change by tomm Friday or spikes, rising WBC
   ICU Care
   Nutrition: as able but poor mental status today
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Arterial Line - [**2102-6-27**] 04:47 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  family meeting to discuss goals of care, he continues
   to worsen, is pressor dependent and declining mental status
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-06-29 10:25:00 Physician Attending Progress Note
Chief Complaint: CHF, afib, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-6-28**] 08:05 AM
   picc and aline
   Pulled foley, truam, urology had to be consulted, 3 way irrigation
   Back in and out of Sfib
 dropped BP and needed Neo again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-6-29**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-6-29**] 08:00 AM
   Metoprolol - [**2102-6-29**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-29**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 71 (62 - 137) bpm
   BP: 94/41(58) {72/31(44) - 147/69(98)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                  2,807 mL
                                                                  1,861 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  2,687 mL
                                                                  1,831 mL
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                  2,512 mL
   Urine:
                                                                    150 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     82 mL
                                                                   -651 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.47/20/109/14/-5
   Physical Examination
    Gen lying in bed, min responsive
   HEENT op dry
   CV RR
   Chest poor air movement, [**Month (only) 202**] BS bases
   Abd distended soft hypoactive BS
   Ext: right fem line
   Labs / Radiology
   11.2 g/dL
   138 K/uL
   74 mg/dL
   1.2 mg/dL
   14 mEq/L
   4.0 mEq/L
   33 mg/dL
   107 mEq/L
   138 mEq/L
   31.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2102-6-28**]  05:12 AM
                             [**2102-6-28**]  05:13 AM
                             [**2102-6-28**]  12:27 PM
                             [**2102-6-28**]  12:32 PM
                             [**2102-6-28**]  06:15 PM
                             [**2102-6-28**]  06:32 PM
                             [**2102-6-29**]  12:00 AM
                             [**2102-6-29**]  12:12 AM
                             [**2102-6-29**]  05:15 AM
                             [**2102-6-29**]  05:51 AM
   WBC
   18.4
   22.0
   16.2
   Hct
   30.4
   33.7
   31.7
   Plt
   147
   182
   138
   Cr
   1.8
   1.8
   1.5
   1.2
   1.2
   TCO2
   22
   18
   19
   15
   Glucose
   82
   91
   83
   76
   74
   Other labs: PT / PTT / INR:19.9/35.8/1.8, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:236/257, Alk Phos / T Bili:749/25.8,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.5
   g/dL, LDH:490 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, [**Year (4 digits) **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   1. Hypotension: DDx  overdiuresed, bowel ischemia, cardiac dysfunction.
   At this point he is on Neo again, but we need to discuss with son
   overall goals of cared as he is not able to be hemodynamically
   supported without vasopressors. Repeat SCVO2 and lactate.
   2. ARF: CVVH
 has not been successful either in terms of hemo
   3. Anemia: DDX blood loss -  HCT relatively stable
 maybe slow GI ooze
   versus ischemic bowel
   4. Leukocytosis: pan culturing, empiric Rx for C diff with Flagyl
   5. Mental Status: likely a combination of uremia, hyperbili, and ICU
   delirium, overall trajectory is down and even with BUN 150 to 50 he is
   worse.
   6. For [**Last Name (LF) **], [**First Name3 (LF) 116**] continue supportive care as above. Bblocker, Dig,
   check level
   7. Liver injury: presumed shock, LFTs coming down, bili continues to
   rise though starting to plateau. Depending on goals could repeat RUQ if
   no change by tomm Friday or spikes, rising WBC
   ICU Care
   Nutrition: cannot take pos due to poor mental status
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Arterial Line - [**2102-6-27**] 04:47 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:
   Code status: DNR (do not resuscitate)
   We need another family meeting today- He is at a point where his goals
   of care shoukdl shift to comfort as he cannot tolerate CVVH, has likely
   bowel ischemia, Afib, CHFand severe mental status decline
   Disposition :ICU
   Total time spent: 35
   Addendum
   Family Meeting 30 min
   Met with all three children and Dr [**Last Name (STitle) 6898**] (primary nephrologist)
   Reviewed Mr [**Known lastname 6899**] overall multisystem organ failure (heart kidneys
   liver brain GItract) and that he has not been able to be sustained even
   with aggressive critical care. We will move to CMO and they are in
   agreement with this plan. They will be updating their mother who may or
   may ot come in tonight.

2102-06-30 05:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2102-6-29**] 04:30 PM
   -RN replaced foley, small amount of bright red blood returned.
   Attempts at flushing failed to return any urine.  Suspect clot
   retention.  3-way foley to be placed with CBI, if unsucessful will call
   Urology.
   -Upon removal of foley clot came out.  On placement of 3-way foley was
   flushed and CBI initiated.
     -Urology returned page at [**Pager number 6918**].  Recommended placing 22F 3-way
   catheter and hand irrigate to evacuate clots.  Followed by CBI only
   after evident that there is good flow.
   -Unable to evacuate clot with hand irrigation
   -Informed Urology resident on call [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] of inability to evacuate
   clots.  Dr. [**First Name (STitle) **] on his way to evaluate Pt (0330)
   -0420 Urology able to evacuate clot from small contracted bladder
   -Urology to follow up on patient in afternoon.
   -changed pt to comfort measures only
   -arterial line d/c'ed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-6-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-6-29**] 08:00 AM
   Metoprolol - [**2102-6-29**] 08:45 AM
   Dextrose 50% - [**2102-6-29**] 10:15 AM
   Hydromorphone (Dilaudid) - [**2102-6-30**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-30**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 84 (62 - 137) bpm
   BP: 71/34(41) {54/20(28) - 95/71(76)} mmHg
   RR: 15 (9 - 24) insp/min
   SpO2: 93%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                  2,430 mL
                                                                     26 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  2,375 mL
                                                                     26 mL
   Blood products:
   Total out:
                                                                  3,702 mL
                                                                    100 mL
   Urine:
                                                                  1,110 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: 7.46/24/107/16/-4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   138 K/uL
   11.2 g/dL
   75 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.1 mEq/L
   33 mg/dL
   105 mEq/L
   136 mEq/L
   31.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2102-6-28**]  12:27 PM
                             [**2102-6-28**]  12:32 PM
                             [**2102-6-28**]  06:15 PM
                             [**2102-6-28**]  06:32 PM
                             [**2102-6-29**]  12:00 AM
                             [**2102-6-29**]  12:12 AM
                             [**2102-6-29**]  05:15 AM
                             [**2102-6-29**]  05:51 AM
                             [**2102-6-29**]  11:39 AM
                             [**2102-6-29**]  11:54 AM
   WBC
   22.0
   16.2
   Hct
   33.7
   31.7
   Plt
   182
   138
   Cr
   1.8
   1.5
   1.2
   1.2
   TCO2
   18
   19
   15
   18
   Glucose
   91
   83
   76
   74
   75
   Other labs: PT / PTT / INR:19.9/35.8/1.8, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:236/257, Alk Phos / T Bili:749/25.8,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.5
   g/dL, LDH:490 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2102-06-30 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed, hypotension
   24 Hour Events:
   - Family meeting: patient made CMO
   - a-line d/c
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-6-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-6-29**] 08:00 AM
   Metoprolol - [**2102-6-29**] 08:45 AM
   Dextrose 50% - [**2102-6-29**] 10:15 AM
   Hydromorphone (Dilaudid) - [**2102-6-30**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-30**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 78 (62 - 137) bpm
   BP: 85/38(49) {54/20(28) - 95/71(76)} mmHg
   RR: 11 (9 - 24) insp/min
   SpO2: 94%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                  2,430 mL
                                                                     36 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  2,375 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  3,702 mL
                                                                    300 mL
   Urine:
                                                                  1,110 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.46/24/107/16/-4
   Physical Examination
   Gen: Snoring, elderly jaundiced man
   HEENT: Pupils pinpoint, dry MM
   CV: RRR, no murmurs
   Lungs: Poor air movement, coarse breath sounds
   Abd: faint bowel sounds, non-tender
   Ext: 1+ edema, warm
   Neuro: Does not arouse to voice
   Labs / Radiology
   No new labs today, yesterday
s labs:
   138 K/uL
   11.2 g/dL
   75 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.1 mEq/L
   33 mg/dL
   105 mEq/L
   136 mEq/L
   31.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2102-6-28**]  12:27 PM
                             [**2102-6-28**]  12:32 PM
                             [**2102-6-28**]  06:15 PM
                             [**2102-6-28**]  06:32 PM
                             [**2102-6-29**]  12:00 AM
                             [**2102-6-29**]  12:12 AM
                             [**2102-6-29**]  05:15 AM
                             [**2102-6-29**]  05:51 AM
                             [**2102-6-29**]  11:39 AM
                             [**2102-6-29**]  11:54 AM
   WBC
   22.0
   16.2
   Hct
   33.7
   31.7
   Plt
   182
   138
   Cr
   1.8
   1.5
   1.2
   1.2
   TCO2
   18
   19
   15
   18
   Glucose
   91
   83
   76
   74
   75
   Other labs: PT / PTT / INR:19.9/35.8/1.8, CK / CKMB /
   Troponin-T:409/14/1.87, ALT / AST:236/257, Alk Phos / T Bili:749/25.8,
   Amylase / Lipase:143/12, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.5
   g/dL, LDH:490 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   88 yo M admitted for abdominal pain and hypotension, transferred to the
   unit for evaluation of new UGI bleed in setting of anticoagulation
   complicated by hypotension, acute on chronic CHF, ARF necessitating
   CVVH, shock liver.  Patient made CMO yesterday.
   #Comfort
   - Dilaudid 0.5 mg q1hr:prn
   - Diphenhydramine, sarna for itching
   - Zofran prn for nausea
   # Hypotension:  A-line d/c
ed, NBP
s in 80
s/40
s.  Pressors off since
   1 pm yesterday, dig and beta-blockers also d/c
   # A-fib with RVR v. SVT with aberrancy: Has been intermittently in
   afib, all cardiac meds off.
   #Anemia: GI bleed
   - no new labs
   # Acute Renal Failure: CVVH d/c
   # Leukocytosis:
   - no new labs
   - c. diff negative, so d/c precautions
   # AMS: Patient somnolent, not arousing to voice
   - comfort as above
   # Transaminitis: No new labs
   - treat itching with diphenhydramine, sarna
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   PICC Line - [**2102-6-22**] 03:00 PM
   Dialysis Catheter - [**2102-6-26**] 05:43 PM
   Prophylaxis:
   DVT: CMO
   Stress ulcer: CMO
   VAP:  CMO
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: callout to private room today